US07807709B2
(3R,4R)-3-Aminomethyl-4-({isopropyl-[3-(3-methoxy-propoxy)-4-methyl-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
According to the procedure described for Example 130/reaction step C, by hydrogenation of (3S,4R)-3-azidomethyl-4-({isopropyl-[3-(3-methoxy-propoxy)-4-methyl-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (3.68 g, 7.31 mmol), dissolved in MeOH (80 mL), in the presence of Pd/C 10% (1.0 g; Engelhard 4505) at room temperature under atmospheric pressure to give, after filtration and drying in vacuo, the title compound as oil. MS: 478.2 [M+H]+. tR (HPLC, Nucleosil C18HD column, 20-100% CH3CN/H2O/6 min, 100% CH3CN/2 min, CH3CN and H2O containing 0.1% TFA, flow: 1 mL/min): 4.28 min.

reactant | (3S,4R)-3-azidomethyl-4-({isopropyl-[3-(3-methoxy-propoxy)-4-methyl-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 7.31 mmol, 3.68 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)C)OCCCOC)=O)C(C)C)CN=[N+]=[N-] | C26H41N5O5
solvent | MeOH | 80 mL | CO | CH4O
catalyst | Pd/C | 1.0 g | [Pd] | Pd
product | (3R,4R)-3-Aminomethyl-4-({isopropyl-[3-(3-methoxy-propoxy)-4-methyl-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)C)OCCCOC)=O)C(C)C)CN | C26H43N3O5
